US07030160B2
a) (2S)-2-tert-butoxycarbonylamino-7-(n-butylaminocarbonylmethoxy)-tetralin
4 g (0.0013 mole) of (2S)-2-tert-butoxycarbonylamino-7-hydroxycarbonylmethoxy-tetralin and 1.66 g (0.0143 mole) of N-hydroxysuccinimide in 40 ml of acetonitrile were stirred at ambient temperature for 3 hours and 2.95 g (0.0143 mole) of DCC (dicyclohexylcarbodiimide) in 15 ml of ethyl ether were added. 1.3 ml (0.0195 mole) of n-butylamine were then added and it was stirred at ambient temperature overnight. The solvent was evaporated off, the residue was taken up in water; it was extracted with ethyl acetate. The organic phase was washed with an aqueous sodium bicarbonate solution, dried and the solvent was evaporated off under reduced pressure. The residue was taken up in a 1:1 ethyl acetate/hexane mixture; the precipitate formed was filtered off and oven dried. The product of the heading was obtained as a white solid.

reactant | (2S)-2-tert-butoxycarbonylamino-7-hydroxycarbonylmethoxy-tetralin | 0.0013 mole, 4 g | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)O | C17H23NO5
reactant | N-hydroxysuccinimide | 0.0143 mole, 1.66 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 0.0143 mole, 2.95 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | n-butylamine | 0.0195 mole, 1.3 ml | C(CCC)N | C4H11N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
product | (2S)-2-tert-butoxycarbonylamino-7-(n-butylaminocarbonylmethoxy)-tetralin | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)NCCCC | C21H32N2O4
